US06642228B1
4-Hydroxy-1-methyl-4-(1-Naphthyl)piperidine
To a solution of 1-bromonaphthalene (2.7 g, 13 mmol) in THF (40 mL) was added dropwise a 1.63 M solution of n-butyllithium (7.3 mL, 12 mmol) in hexane at −78° C. over 10 minutes. The reaction mixture was then stirred for 30 minutes and a solution of N-methylpiperidone (1.1 g, 10 mmol) in THF (2 mL) was added dropwise to the reaction mixture. After stirring the reaction mixture for 2 hours, a saturated aqueous ammonium chloride(10 mL) was added to the reaction mixture, and the mixture was extracted with chloroform. After drying over anhydrous sodium sulfate, the chloroform layer was concentrated, and the resulting crude crystals were recrystallized from chloroform/hexane to afford the title compound (1.5 g, yield: 63%) as white crystals.

reactant | 1-bromonaphthalene | 13 mmol, 2.7 g | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
reactant | n-butyllithium | 12 mmol, 7.3 mL | C(CCC)[Li]
reactant | N-methylpiperidone | 10 mmol, 1.1 g | CN1C(CCCC1)=O | C6H11NO
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
reactant | THF | 40 mL | C1CCOC1 | C4H8O
reactant | THF | 2 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4-Hydroxy-1-methyl-4-(1-Naphthyl)piperidine | 1.5 g, yield: 63% | OC1(CCN(CC1)C)C1=CC=CC2=CC=CC=C12 | C16H19NO
